US09060517B2
607.7 g (49.57 mol) of 80% sulfuric acid were placed in a 3 L eggplant flask containing a stirrer followed by cooling to 0° C. 160.0 g (1.24 mol) of 2,3-difluoroaniline were gradually added thereto. Following completion of addition, the reaction mixture was stirred for 1 hour at room temperature. 1.85 g (12.3 mmol) of sodium iodide were then added thereto followed by heating with an oil bath at 150° C. When the liquid temperature reached 150° C., 125.5 g (1.36 mol) of glycerin were dropped therein over the course of 1 hour. Following completion of dropping, the reaction mixture was stirred for 1 hour at 150° C. Next, the temperature of the oil bath was raised to 180° C. Water was distilled off over the course of 2 hours using a distillation apparatus. After confirming elimination of the raw materials, the reaction mixture was neutralized with 10 N aqueous sodium hydroxide solution while cooling in an ice water bath (internal temperature: 60° C. to 70° C.). Following neutralization, the reaction mixture was extracted with ethyl acetate before the internal temperature returned to room temperature, and then the extract was dried with magnesium sulfate, filtered, and concentrated. The resulting crude product was purified by silica gel column chromatography (n-hexane:ethyl acetate) to obtain 185.5 g (91%) of 7,8-difluoroquinoline in the form of a light brown solid.

reactant | sulfuric acid | 49.57 mol, 607.7 g | S(O)(O)(=O)=O | H2O4S
reactant | 2,3-difluoroaniline | 1.24 mol, 160.0 g | FC1=C(N)C=CC=C1F | C6H5F2N
reactant | glycerin | 1.36 mol, 125.5 g | OCC(O)CO | C3H8O3
catalyst | sodium iodide | 12.3 mmol, 1.85 g | [I-].[Na+]
product | 7,8-difluoroquinoline | 185.5 g, 91% | FC1=CC=C2C=CC=NC2=C1F | C9H5F2N
